US09290517B2
2-[[2-[[(3R,3aR,6R,6aR)-3-allyloxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane
Allyl iodide (130 μl, 1.422 mmol) and sodium hydride (16.0 mg, 0.400 mmol) were added to a stirred solution of (3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydro-furo[3,2-b]furan-3-ol (82.8 mg, 0.143 mmol) in DMF (1.4 ml). The reaction mixture was stirred at room temperature for 3 h. The reaction mixture was partitioned between EtOAc (75 ml), water (20 ml), and 2 N HCl (10 ml). The organic layer was washed with water (2×30 ml, brine was added to each wash to break an emulsion) and brine (1×20 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give an amber residue. Flash chromatography of the residue utilizing a 4 g silica RediSep Rf® column and employing a 0-40% EtOAc/hexane gradient followed by 40% EtOAc/hexane afforded the title compound as a pale yellow solid. LC-MS: calculated for C33H38ClN3O5Si 619.23 observed m/e: 620.32 (M+H)+ (Rt 1.43/2 min).

reactant | Allyl iodide | 1.422 mmol, 130 μl | C(C=C)I | C3H5I
reactant | sodium hydride | 0.400 mmol, 16.0 mg | [H-].[Na+]
reactant | (3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydro-furo[3,2-b]furan-3-ol | 0.143 mmol, 82.8 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C30H34ClN3O5Si
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 1.4 ml | CN(C)C=O | C3H7NO
product | 2-[[2-[[(3R,3aR,6R,6aR)-3-allyloxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane | C(C=C)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=CC=C1)N2)COCC[Si](C)(C)C | C33H38ClN3O5Si
